US05821239
4-Acetylamino-3-pyridinol N,N-diethylcarbamate
4-Amino-3-pyridinol N,N-diethylcarbamate (4.18 g) was dissolved in CH2Cl2 (75 mL) containing Et3N (2.22 g). The reaction mixture was chilled in an ice-water bath and then acetyl chloride (1.57 g) was added dropwise. After stirring in the cold bath for 15 minutes, the mixture was concentrated under reduced pressure to a volume of ca. 20 mL. This suspension was applied directly to a flash chromatography column and eluted with 5% Et3N/ethyl acetate. The product-containing fractions were concentrated to give 3.76 g of chromatographically pure product. An analytically pure material was obtained by recrystallization from ethyl acetate/pentane, m.p. 102°-104° C.

reactant | 4-Amino-3-pyridinol N,N-diethylcarbamate | 4.18 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | Et3N | 2.22 g | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 1.57 g | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate pentane | C(C)(=O)OCC.CCCCC
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-Acetylamino-3-pyridinol N,N-diethylcarbamate | C(C)N(C(=O)OC=1C=NC=CC1NC(C)=O)CC | C12H17N3O3
